### PR TITLE
unprocessed output 21-100

### PR DESCRIPTION
**Pull request by kckennylau**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/AddConstMap/Basic.lean [hunk 1]
```diff
@@ -212,7 +212,7 @@ theorem map_sub_int' [AddGroupWithOne G] [AddGroup H] [AddConstMapClass F G H 1
     (f : F) (x : G) (n : ℤ) : f (x - n) = f x - n • b := by
   rw [← map_sub_zsmul, zsmul_one]
 
-theorem map_sub_int [AddGroupWithOne G] [AddGroupWithOne H] [AddConstMapClass F G H 1 1]
+theorem map_sub_int [AddGroupWithOne G] [AddMonoidWithOne H] [AddConstMapClass F G H 1 1]
```
Comment (kckennylau) [inline Mathlib/Algebra/AddConstMap/Basic.lean]:
```suggestion
theorem map_sub_int [AddGroupWithOne G] [AddGroupWithOne H] [AddConstMapClass F G H 1 1]
```

File: Mathlib/Algebra/Algebra/Bilinear.lean [hunk 2]
```diff
@@ -64,7 +64,7 @@ def mulRight (b : A) : A →ₗ[R] A where
   map_smul' _ _ := smul_mul_assoc _ _ _
 
 @[simp]
-theorem mulRight_apply (a b : A) : mulRight R a b = b * a := rfl
+theorem mulRight_apply (a b : A) : mulRight R a b = a * b := rfl
```
Comment (kckennylau) [inline Mathlib/Algebra/Algebra/Bilinear.lean]:
```suggestion
theorem mulRight_apply (a b : A) : mulRight R a b = b * a := rfl
```

File: Mathlib/Algebra/Algebra/NonUnitalHom.lean [hunk 3]
```diff
@@ -88,7 +88,7 @@ namespace NonUnitalAlgHomClass
 instance (priority := 100) toNonUnitalRingHomClass
   {F R S A B : Type*} {_ : Monoid R} {_ : Monoid S} {φ : outParam (R →* S)}
     {_ : NonUnitalNonAssocSemiring A} [DistribMulAction R A]
-    {_ : NonUnitalNonAssocSemiring B} [DistribMulAction S B] [FunLike F A B]
+    {_ : NonUnitalNonAssocSemiring B] [DistribMulAction S B] [FunLike F A B]
```
Comment (kckennylau) [inline Mathlib/Algebra/Algebra/NonUnitalHom.lean]:
```suggestion
    {_ : NonUnitalNonAssocSemiring B} [DistribMulAction S B] [FunLike F A B]
```

File: Mathlib/Algebra/Algebra/NonUnitalHom.lean [hunk 4]
```diff
@@ -127,8 +127,8 @@ instance {F R S A B : Type*} [Monoid R] [Monoid S] {φ : R →* S}
   ⟨toNonUnitalAlgSemiHom⟩
 
 /-- Turn an element of a type `F` satisfying `NonUnitalAlgHomClass F R A B` into an actual
-@[coe]
 `NonUnitalAlgHom`. This is declared as the default coercion from `F` to `A →ₛₙₐ[R] B`. -/
+@[coe]
```
Comment (kckennylau) [inline Mathlib/Algebra/Algebra/NonUnitalHom.lean]:
```suggestion
@[coe]
`NonUnitalAlgHom`. This is declared as the default coercion from `F` to `A →ₛₙₐ[R] B`. -/
```

File: Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean [hunk 5]
```diff
@@ -877,6 +877,7 @@ section NonAssoc
 variable {R : Type u} {A : Type v} {B : Type w}
 variable [CommSemiring R]
 variable [NonUnitalNonAssocSemiring A] [Module R A]
+variable [IsScalarTower R A A] [SMulCommClass R A A]
```
Comment (kckennylau) [inline Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean]:
```suggestion
```

File: Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean [hunk 6]
```diff
@@ -926,8 +927,6 @@ theorem prod_inf_prod {S T : NonUnitalSubalgebra R A} {S₁ T₁ : NonUnitalSuba
 
 end Prod
```
Comment (kckennylau) [inline Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean:929]:
```suggestion
variable [IsScalarTower R A A] [SMulCommClass R A A]

```

File: Mathlib/Algebra/Algebra/Pi.lean [hunk 7]
```diff
@@ -48,7 +48,7 @@ variable {ι} (R)
 `Pi.algHom g : B →ₐ[R] Π i, A i` given by `Pi.algHom g x i = g i x`. -/
 @[simps!]
 def algHom {B : Type*} [Semiring B] [Algebra R B] (g : ∀ i, B →ₐ[R] A i) : B →ₐ[R] Π i, A i where
-  __ := Pi.ringHom fun i ↦ (g i).toRingHom
+  toRingHom := Pi.ringHom fun i ↦ (g i).toRingHom
```
Comment (kckennylau) [inline Mathlib/Algebra/Algebra/Pi.lean]:
```suggestion
  __ := Pi.ringHom fun i ↦ (g i).toRingHom
```

File: Mathlib/Algebra/Algebra/TransferInstance.lean [hunk 8]
```diff
@@ -28,7 +28,7 @@ protected abbrev algebra (e : α ≃ β) [Semiring β] :
   letI : Module R α := e.module R
   fapply Algebra.ofModule
   · intro r x y
-    change e.symm (e (e.symm (r • e x)) * e y) = e.symm (r • e.ringEquiv (x * y))
+    change e.symm (e (e.symm (r • e x)) * e y) = e.symm (r • e (x * y))
```
Comment (kckennylau) [inline Mathlib/Algebra/Algebra/TransferInstance.lean]:
```suggestion
    change e.symm (e (e.symm (r • e x)) * e y) = e.symm (r • e.ringEquiv (x * y))
```

File: Mathlib/Algebra/Azumaya/Defs.lean [hunk 9]
```diff
@@ -36,7 +36,7 @@ abbrev instModuleTensorProductMop :
   Module (A ⊗[R] Aᵐᵒᵖ) A := TensorProduct.Algebra.module
 
 /-- The canonical map from `A ⊗[R] Aᵐᵒᵖ` to `Module.End R A` where
-  `a ⊗ b` maps to `f : x ↦ a * x * b`. -/
+  `a ⊗ b` maps to `f : x ↦ a * x * b.unop`. -/
```
Comment (kckennylau) [inline Mathlib/Algebra/Azumaya/Defs.lean]:
```suggestion
  `a ⊗ b` maps to `f : x ↦ a * x * b`. -/
```

File: Mathlib/Algebra/BigOperators/Group/Finset/Piecewise.lean [hunk 10]
```diff
@@ -236,7 +236,7 @@ theorem prod_update_of_mem [DecidableEq ι] {s : Finset ι} {i : ι} (h : i ∈
   rw [update_eq_piecewise, prod_piecewise]
   simp [h]
 
-/-- See also `Finset.prod_ite_zero`. -/
+/-- See also `Finset.prod_ite_one`. -/
```
Comment (kckennylau) [inline Mathlib/Algebra/BigOperators/Group/Finset/Piecewise.lean]:
```suggestion
/-- See also `Finset.prod_ite_zero`. -/
```

File: Mathlib/Algebra/Quandle.lean [hunk 11]
```diff
@@ -67,10 +67,10 @@ Use `open quandles` to use these.
 
 ## TODO
 
-* If `g` is the Lie algebra of a Lie group `G`, then `(x ◃ y) = Ad (exp x) x` forms a quandle.
+* If `g` is the Lie algebra of a Lie group `G`, then `(x ◃ y) = Ad (exp x) y` forms a quandle.
```
Comment (kckennylau) [inline Mathlib/Algebra/Quandle.lean]:
```suggestion
* If `g` is the Lie algebra of a Lie group `G`, then `(x ◃ y) = Ad (exp x) x` forms a quandle.
```

File: Mathlib/Algebra/Quandle.lean [hunk 12]
```diff
@@ -67,10 +67,10 @@ Use `open quandles` to use these.
...
 * If `X` is a symmetric space, then each point has a corresponding involution that acts on `X`,
   forming a quandle.
-* Alexander quandle with `a ◃ b = t * b + (1 - t) * b`, with `a` and `b` elements
+* Alexander quandle with `a ◃ b = t * b + (1 - t) * a`, with `a` and `b` elements
```
Comment (kckennylau) [inline Mathlib/Algebra/Quandle.lean]:
```suggestion
* Alexander quandle with `a ◃ b = t * b + (1 - t) * b`, with `a` and `b` elements
```

File: Mathlib/Algebra/Quandle.lean [hunk 13]
```diff
@@ -475,8 +475,9 @@ importantly, the relationship between conjugation and the rack action
 
 None of this forms a 2-category yet, for example due to lack of
 associativity of `trans`.  The `PreEnvelGroupRel` relation is a
-`Prop`-valued version of `PreEnvelGroupRel'`, and making it
-`Prop`-valued essentially introduces enough 3-isomorphisms so that
+`Prop`-valued version of `PreEnvelGroupRel'`, which is used to define
+`EnvelGroup` itself.
+Making it `Prop`-valued essentially introduces enough 3-isomorphisms so that
```
Comment (kckennylau) [inline Mathlib/Algebra/Quandle.lean]:
```suggestion
`Prop`-valued version of `PreEnvelGroupRel'`, and making it
`Prop`-valued essentially introduces enough 3-isomorphisms so that
```

File: Mathlib/Algebra/TrivSqZeroExt.lean [hunk 14]
```diff
@@ -517,7 +517,7 @@ theorem snd_intCast [AddGroupWithOne R] [AddGroup M] (z : ℤ) : (z : tsze R M).
 theorem inl_intCast [AddGroupWithOne R] [AddGroup M] (z : ℤ) : (inl z : tsze R M) = z :=
   rfl
 
-instance nonAssocSemiring [Semiring R] [AddCommMonoid M] [Module R M] [Module Rᵐᵒᵖ M] :
+instance nonAssocSemiring [Semiring R] [AddCommMonoid M] [Module R M] [Module Rᵐᵒᵖ M] [SMulCommClass R Rᵐᵒᵖ M] :
```
Comment (kckennylau) [inline Mathlib/Algebra/TrivSqZeroExt.lean]:
```suggestion
instance nonAssocSemiring [Semiring R] [AddCommMonoid M] [Module R M] [Module Rᵐᵒᵖ M] :
```

File: Mathlib/Algebra/TrivSqZeroExt.lean [hunk 15]
```diff
@@ -680,7 +680,7 @@ def inlHom [Semiring R] [AddCommMonoid M] [Module R M] [Module Rᵐᵒᵖ M] : R
   toFun := inl
   map_one' := inl_one M
   map_mul' := inl_mul M
-  map_zero' := inl_zero M
+  map_zero' := inl_zero (M := M)
```
Comment (kckennylau) [inline Mathlib/Algebra/TrivSqZeroExt.lean]:
```suggestion
  map_zero' := inl_zero M
```
